US05616599
70(a) Ethyl 1-(2'-cyanobiphenyl-4-yl)methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate
Following a procedure similar to that as described in Example 68(a), but using 4.01 g of ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate (prepared as described in Preparation 9), 5.0 g of 4'-bromomethylbiphenyl-2-carbonitrile and 1.97 g of potassium t-butoxide, 6.86 g of the title compound were obtained as crystals, melting at 92°-93° C.

reactant | ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 4.01 g | OC(C)(C)C=1N=C(NC1C(=O)OCC)CCC | C12H20N2O3
reactant | 4'-bromomethylbiphenyl-2-carbonitrile | 5.0 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H10BrN
reactant | potassium t-butoxide | 1.97 g | CC(C)([O-])C.[K+]
product | Ethyl 1-(2'-cyanobiphenyl-4-yl)methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 6.86 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(C)(C)O)CCC | C26H29N3O3
